US06638321B1
a) Preparation of (3-Imidazol-1-ylpropyl)-(2-methyl-4-nitrophenyl)amine
Starting with 31.2 g (0.2 mol) of 1-fluoro-2-methyl-4-nitrobenzene and 37.5 g (0.3 mol) of 3-imidazol-1-ylpropylamine, and after purification by recrystallization from refluxing 96° C. ethanol, 23.0 g of orange-yellow crystals melting at 163° C. (Kofler) were obtained, the elemental analysis of which, calculated for C13H16N4O2.¼H2O, was:

reactant | 1-fluoro-2-methyl-4-nitrobenzene | 0.2 mol, 31.2 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | 3-imidazol-1-ylpropylamine | 0.3 mol, 37.5 g | N1(C=NC=C1)CCCN | C6H11N3
product | (3-Imidazol-1-ylpropyl)-(2-methyl-4-nitrophenyl)amine | 23.0 g | N1(C=NC=C1)CCCNC1=C(C=C(C=C1)[N+](=O)[O-])C | C13H16N4O2
